US03944531
By the process described in Example 1, p-[(1,5-dimethyl-hexyl)-oxy]-benzyl alcohol is reacted with propyl bromide to give p-[(1,5-dimethyl-hexyl)-oxy]-α-propoxy-toluene (boiling point = 198°- 200°C/1.0 mmHg).

reactant | p-[(1,5-dimethyl-hexyl)-oxy]-benzyl alcohol | CC(CCCC(C)C)OC1=CC=C(CO)C=C1 | C15H24O2
reactant | propyl bromide | C(CC)Br | C3H7Br
product | p-[(1,5-dimethyl-hexyl)-oxy]-α-propoxy-toluene | CC(CCCC(C)C)OC1=CC=C(C=C1)COCCC | C18H30O2
